US08541457B2
Synthesis of 4-Methyl-2-(3-phenylureido)thiazole-5-carboxylic Acid Benzylamide
To a stirred solution of 2-amino-4-methylthiazole-5-carboxylic acid benzylamide (0.10 g, 0.40 mmol) in anhydrous tetrahydrofuran (5 mL), triethylamine (0.17 mL, 0.12 g, 1.22 mmol) and phenyl isocyanate (0.07 mL, 0.072 g, 0.61 mmol) were added dropwise at ambient temperature. The reaction mixture was stirred at ambient temperature for 25 h and then diluted with ethyl ether (20 mL). The white precipitate obtained was collected by filtration, washed with ethyl ether (3×6 mL) and dried under the reduced pressure to afford the title compound as a white solid in 80% yield (0.119 g); m.p.>300° C.; 1H NMR (DMSO-d6, 300 MHz) δ 9.00 (s, 1H), 8.47 (t, J=5.7 Hz, 1H), 7.46-7.17 (m, 10H), 7.03-6.98 (m, 1H), 4.35 (d, J=6.0 Hz, 2H), 2.43 (s, 3H); 13C NMR (DMSO-d6, 75 MHz) δ 162.2, 140.2, 140.0, 129.4, 129.2, 128.7, 127.7, 127.1, 123.3, 119.1, 118.6, 43.0, 39.1; MS (ES+) m/z 367.2 (M+1).

reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | 0.40 mmol, 0.10 g | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
reactant | triethylamine | 1.22 mmol, 0.17 mL, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.61 mmol, 0.07 mL, 0.072 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 20 mL | C(C)OCC | C4H10O
product | 4-Methyl-2-(3-phenylureido)thiazole-5-carboxylic Acid Benzylamide | 80% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(=O)NC1=CC=CC=C1)C | C19H18N4O2S
